US07691882B2
(4-(2-(Tetrahydrofuran-2-yl)-ethyl)-phenyl)-methanol
To an anhydrous tetrahydrofuran (20 mL) solution of ethyl 4-(2-(tetrahydrofuran-2-yl)-ethyl)-benzoic acid ethyl ester (2.2 g, 9.39 mmol) described in Manufacturing Example 82-1-1 was added diisobutyl aluminum hydride (0.97 M toluene solution, 24.2 mL, 23.5 mmol) on a dry ice-ethanol bath (−78° C.) under nitrogen atmosphere. After stirring for 30 minutes, 15% aqueous potassium sodium tartrate solution (100 mL) was added to the reaction liquid, and stirred for 30 minutes at room temperature. After addition of ethyl acetate (200 mL), the organic layer and water layer were separated. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:9 then 2:8) to obtain the title compound (600 mg, 31%).

reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | ethyl 4-(2-(tetrahydrofuran-2-yl)-ethyl)-benzoic acid ethyl ester | 9.39 mmol, 2.2 g | C(C)OC(C1=C(C=C(C=C1)CCC1OCCC1)CC)=O | C17H24O3
reactant | diisobutyl aluminum hydride | 23.5 mmol, 0.97 M, 24.2 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | potassium sodium tartrate | 100 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (4-(2-(Tetrahydrofuran-2-yl)-ethyl)-phenyl)-methanol | 600 mg, 31% | O1C(CCC1)CCC1=CC=C(C=C1)CO | C13H18O2
